US07501427B2
N-Methyl-N-(1-methyl-4,5-dihydro-1 H-imidazol-2-yl)-hydrazine is prepared according to Step B of Example 25 using 1-methyl-2-methylsulfanyl-4,5-dihydro-1 H-imidazole and methyl hydrazine.

reactant | 1-methyl-2-methylsulfanyl-4,5-dihydro-1 H-imidazole | CN1C(=NCC1)SC | C5H10N2S
reactant | methyl hydrazine | CNN | CH6N2
product | N-Methyl-N-(1-methyl-4,5-dihydro-1 H-imidazol-2-yl)-hydrazine | CN(N)C=1N(CCN1)C | C5H12N4
